US07977477B2
To a solution of EDC (44 mg, 0.23 mmol) and HOBt (31 mg, 0.23 mmol) in DMF (5 ml) was added 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.19 mmol) and 5-fluoro-2-methoxy-benzoic acid (36 mg, 0.21 mmol) and the mixture stirred at room temperature overnight. The solvent was removed in vacuo and the resulting solid partitioned between DCM (20 ml) and saturated aqueous sodium bicarbonate (20 ml). A precipitate was formed which was removed by filtration and oven dried to yield N-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-5-fluoro-2-methoxy-benzamide (64 mg, 81%). (LC/MS: Rt 2.64, [M+H]+ 412).

reactant | EDC | 0.23 mmol, 44 mg
reactant | HOBt | 0.23 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.19 mmol, 50 mg | COC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1OC | C12H13N5O2
reactant | 5-fluoro-2-methoxy-benzoic acid | 0.21 mmol, 36 mg | FC=1C=CC(=C(C(=O)O)C1)OC | C8H7FO3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-5-fluoro-2-methoxy-benzamide | 64 mg, 81% | COC1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC(=C2)F)OC)=O)C=C1OC | C20H18FN5O4
